US07851469B2
b) 6-{4-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-N-cyclopropylmethyl-nicotinamide
As described for Example 10, 6-{4-[3-(4-chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester (100 mg, 0.23 mmol), instead of 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester was converted, to the title compound (90 mg, 83%) which was obtained as a white solid. MS: m/e=488.1 [M+H]+.

reactant | 6-{4-[3-(4-chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester | 0.23 mmol, 100 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)Cl)=O | C20H12ClF3N4O3
reactant | 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C21H14F3N3O3
product | 6-{4-[3-(4-Chloro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-N-cyclopropylmethyl-nicotinamide | 90 mg, 83% | ClC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NCC2CC2)C=C1)C(F)(F)F | C23H17ClF3N5O2
